US07030118B2
F) (±)-3-Benzyl-2-(1-hydroxy-propyl)-4-oxo-3,4-dihydro-pyrrolo[2,1-f][1,2,4]triazine-5-carboxylic acid methyl ester
Ethyl magnesium bromide (1 M, 0.77 ml, 0.77 mmol) was added dropwise to a −78° C. solution of 3-benzyl-2-formyl-4-oxo-3,4-dihydro-pyrrolo[2,1-f][1,2,4]triazine-5-carboxylic acid methyl ester (0.12 g, 0.39 mmol) in CH2Cl2 (6.0 mL) over 45 min. The reaction mixture was stirred at −78° for 30 min, quenched with saturated NH4Cl (10 mL) and warmed to room temperature. The reaction mixture was extracted with CHCl3 (3×25 mL), dried (Na2SO4), filtered and concentrated in vacuo. The residue was purified by flash column chromatography on silica gel eluting with 1/1 hexane/EtOAc to afford the title compound (0.070 g, 50%) as a solid: MS (ESI+) 342 (M++H).

reactant | Ethyl magnesium bromide | 0.77 mmol, 1 M, 0.77 ml | C(C)[Mg]Br
reactant | 3-benzyl-2-formyl-4-oxo-3,4-dihydro-pyrrolo[2,1-f][1,2,4]triazine-5-carboxylic acid methyl ester | 0.39 mmol, 0.12 g | COC(=O)C=1C=CN2N=C(N(C(C21)=O)CC2=CC=CC=C2)C=O | C16H13N3O4
solvent | CH2Cl2 | 6.0 mL | C(Cl)Cl | CH2Cl2
product | (±)-3-Benzyl-2-(1-hydroxy-propyl)-4-oxo-3,4-dihydro-pyrrolo[2,1-f][1,2,4]triazine-5-carboxylic acid methyl ester | 0.070 g, 50% | COC(=O)C=1C=CN2N=C(N(C(C21)=O)CC2=CC=CC=C2)C(CC)O | C18H19N3O4
